US04304728
4-Oxo-6-phenyl-4H-pyran-2-carbonitrile
A mixture of 4-oxo-6-phenyl-4H-pyran-2-carboxamide (4.26 g), triphenylphosphine (10.48 g) and triethylamine (2.8 ml) in carbon tetrachloride (40 ml) and dichloromethane (80 ml) was stirred at room temperature for 4 hours. The reactant slowly dissolved. Dilute hydrochloric acid (1 M, 50 ml) and chloroform (100 ml) were added. The organic layer was separated, washed with water, dried over anhydrous magnesium sulphate, filtered and evaporated. The brown residue was recrystallised twice from carbon tetrachloride to yield the title product as off-white crystals (mp 146°-149° C.).

reactant | 4-oxo-6-phenyl-4H-pyran-2-carboxamide | 4.26 g | O=C1C=C(OC(=C1)C1=CC=CC=C1)C(=O)N | C12H9NO3
reactant | triphenylphosphine | 10.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 M, 50 ml | Cl | ClH
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Oxo-6-phenyl-4H-pyran-2-carbonitrile | O=C1C=C(OC(=C1)C1=CC=CC=C1)C#N | C12H7NO2
